US07227032B2
To a flask having an inner volume of 25 ml and equipped with a stirring device, a thermometer and a reflux condenser were charged 2.97 g (20 mmol) of 3,3-dimethoxy-2-hydroxyiminopropionitrile with a purity of 96.9% by weight, 1.01 g (21 mmol) of methylhydrazine with a purity of 97% by weight, 6 ml of methanol and 3.0 ml (36 mmol) of conc. hydrochloric acid, and the mixture was reacted at 50 to 52° C. for 4 hours. After completion of the reaction, 5 ml of water was added to the mixture to cool the mixture up to 10° C., and 2.3 ml (37.9 mmol) of 28% by weight aqueous ammonia was gradually added dropwise to the mixture, and the resulting mixture was stirred for 30 minutes while maintaining the liquid temperature to 5° C. or lower. Precipitated crystals were collected by filtration, and then, the crystals were washed with 1.2 ml of cold water and 1.2 ml of cold methanol, and dried under reduced pressure to obtain 1.91 g of 5-amino-1-methyl-4-nitrosopyrazole (Isolation yield: 74.8%) as dark purple solid with a purity of 98.8% by weight (absolute calibration curve method by high performance liquid chromatography).

reactant | 3,3-dimethoxy-2-hydroxyiminopropionitrile | 20 mmol, 2.97 g | COC(C(C#N)=NO)OC | C5H8N2O3
reactant | methylhydrazine | 21 mmol, 1.01 g | CNN | CH6N2
reactant | hydrochloric acid | 36 mmol, 3.0 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | water | 5 ml | O | H2O
solvent | methanol | 6 ml | CO | CH4O
product | 5-amino-1-methyl-4-nitrosopyrazole | 1.91 g, yield: 74.8% | NC1=C(C=NN1C)N=O | C4H6N4O
